US08207167B2
2′,4′-Difluoro-N-(3-(1-hydroxy-2-(methylamino)ethyl)phenyl)biphenyl-4-sulfonamide (ABD783)
Using a method analogous to Method D, using 2′,4′-difluoro-N-(3-(oxiran-2-yl)phenyl)biphenyl-4-sulfonamide and 33% methylamine in ethanol, a mixture of regioisomers was obtained. This solution was evaporated and the isomers were separated by flash chromatography (SiO2, eluting with 5% to 20% methanol/DCM, containing 0.1% concentrated aqueous NH3), giving ABD789 as a light orange powder (165 mg). With further elution (increasing the polarity slowly to 40% methanol/DCM) ABD783 was obtained as an orange gum, which was triturated with ether to give the title compound as a light orange powder (330 mg). 1H NMR (400 MHz, DMSO-d6): δ 2.47 (3H, s), 2.70-2.76 (1H, t), 2.80-2.89 (1H, dd), 4.85 (1H, d, J=8 Hz), 6.95-7.15 (2H, m), 7.10-7.25 (3H, m), 7.40 (1H, t), 7.55-7.65 (1H, m), 7.66 (2H, d, J=8 Hz) and 7.84 (2H, d, J=8 Hz). MS, m/z: Calcd, 418.11. Found, 418.28 (M).

reactant | 2′,4′-difluoro-N-(3-(oxiran-2-yl)phenyl)biphenyl-4-sulfonamide | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C1OC1 | C20H15F2NO3S
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | 2′,4′-Difluoro-N-(3-(1-hydroxy-2-(methylamino)ethyl)phenyl)biphenyl-4-sulfonamide | 165 mg | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C(CNC)O | C21H20F2N2O3S
